US05707933
Preparation of 2-(1',3'-dimethyl-pyrazol-5-yloxy)-pyridine-6-carbonitrile
5.6 g of 1,3-dimethyl-5-hydroxypyrazole (50 mmol) was added to a suspension of 7.7 g 2-chloro-6-cyanopyridine (55 mmol) and 7.6 g K2CO3 (55 mmol) in 50 ml N,N-dimethylformamide and heated to reflux with vigorous stirring for 5 hours. After cooling, the mixture was poured into water (100 ml) and the aqueous layer extracted 3 times with each 100 ml ethyl acetate. The combined extracts were dried with anhydrous magnesium sulphate and the solvent was removed in vacuo. The residue was purified by flash silica gel column chromatography using hexane/ethyl acetate 7/3. The title compound was obtained after recrystallisation from isopropanol as 5.9 g (55%) of white crystals of m.p. 95° C.

reactant | 1,3-dimethyl-5-hydroxypyrazole | 50 mmol, 5.6 g | CN1N=C(C=C1O)C | C5H8N2O
reactant | 2-chloro-6-cyanopyridine | 55 mmol, 7.7 g | ClC1=NC(=CC=C1)C#N | C6H3ClN2
reactant | K2CO3 | 55 mmol, 7.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(1',3'-dimethyl-pyrazol-5-yloxy)-pyridine-6-carbonitrile | CN1N=C(C=C1OC1=NC(=CC=C1)C#N)C | C11H10N4O
